US07157447B2
N-(4-Fluoro-2-(3-methylisoxazol-5-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
A solution of intermediate 179, N-(2-ethynyl-4-fluorobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide (0.150 g, 0.32 mmol) in dimethyl sulfoxide (5 ml) was treated with nitromethane (0.14 ml, 1.92 mmol), 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride (DMTMM) (0.241 g, 1.0 mmol) (M. Kunishima et al., Tetrahedron, 55, 1999, 13159–13170) and 4-(dimethylamino)pyridine (DMAP) (0.010 g) and the resulting mixture stirred at 22° C. for 16 h. Identical quantities of nitromethane, DMTMM and DMAP were then added and the mixture was stirred for another 24 h. The reaction mixture was diluted with ethyl acetate, washed with saturated sodium bicarbonate and brine, then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Chromatography of the residue on silica gel (elution gradient of ethyl acetate in dichloromethane) gave 0.122 g (73% yield) of the title material as a white solid. 1HNMR 400 MHz (CDCl3) δ ppm: 1.62 (6H, s, 2×CH3), 2.39 (3H, s, CH3), 4.04 (4H, m, 2×CH2), 4.69 (2H, d, J=6.1 Hz, NCH2), 5.31 (2H, s, OCH2), 6.36 (1H, m, CH), 7.13 (1H, m, aromatic), 7.30–7.35 (4H, m, aromatics), 7.50–7.53 (2H, m, aromatics), 7.58 (1H,dd, J=5.5 Hz and J=8.6 Hz, aromatic), 8.06 (1H, broad t, NH). HRMS (ESI+) calculated for C28H28FN4O5 [M+H+]: 519.2044. found: 519.2059.

reactant | N-(2-ethynyl-4-fluorobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.32 mmol, 0.150 g | C(#C)C1=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=CC(=C1)F | C26H24FN3O4
reactant | nitromethane | 1.92 mmol, 0.14 ml | [N+](=O)([O-])C | CH3NO2
reactant | 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride | 1.0 mmol, 0.241 g | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
catalyst | 4-(dimethylamino)pyridine | 0.010 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-Fluoro-2-(3-methylisoxazol-5-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.122 g, 73% yield | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)C1=CC(=NO1)C | C28H27FN4O5
